US04470976
4-Acetamidophenyl 4-O-(β-D-glucopyranosyl)-1-thio-β-D-glucopyranoside
To a solution of 1.36 g of 4-aminophenyl 4-O-(β-D-glucopyranosyl)-1-thio-β-D-glucopyranoside in 7 ml of water was added 0.463 g of acetic anhydride. The solution was shaken for 5 minutes then taken to dryness. The resulting glass was triturated with ethyl acetate and the solid collected, giving 1.49 g. of the desired intermediate as a white glass.

reactant | 4-aminophenyl 4-O-(β-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 1.36 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@H](SC2=CC=C(C=C2)N)O[C@@H]1CO)O)O | C18H27NO10S
reactant | acetic anhydride | 0.463 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 7 ml | O | H2O
product | 4-Acetamidophenyl 4-O-(β-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@H](SC2=CC=C(C=C2)NC(C)=O)O[C@@H]1CO)O)O | C20H29NO11S
